US08445530B2
2-[4-Methoxy-3-(2-m-tolyl-ethoxy)-benzoylamino]-1-oxo-indane-2-carboxylic acid ethyl ester
2-Amino-1-oxo-indane-2-carboxylic acid ethyl ester (L. Benati et al., J. Org. Chem. 64 (1999), 7836-7841) (460 mg, 2.10 mmol) was reacted with 4-methoxy-3-(2-m-tolyl-ethoxy)-benzoic acid in analogy to step 2 of example 13 to yield 0.331 g of the title compound.

reactant | 2-Amino-1-oxo-indane-2-carboxylic acid ethyl ester | 2.10 mmol, 460 mg | C(C)OC(=O)C1(C(C2=CC=CC=C2C1)=O)N | C12H13NO3
reactant | 4-methoxy-3-(2-m-tolyl-ethoxy)-benzoic acid | COC1=C(C=C(C(=O)O)C=C1)OCCC=1C=C(C=CC1)C | C17H18O4
product | 2-[4-Methoxy-3-(2-m-tolyl-ethoxy)-benzoylamino]-1-oxo-indane-2-carboxylic acid ethyl ester | 0.331 g | C(C)OC(=O)C1(C(C2=CC=CC=C2C1)=O)NC(C1=CC(=C(C=C1)OC)OCCC=1C=C(C=CC1)C)=O | C29H29NO6
